US04327040
1 mol of phosphoric acid diethyl ester chloride was added dropwise to 1.2 mols of propargyl alcohol at 20°-30° C., while stirring and passing nitrogen through. The mixture was allowed to react at 20°-30° C. for 2 hours and at 50° C. for 1 hour and was then taken up in 500 ml of methylene chloride and the methylene chloride mixture was washed twice with dilute sodium carbonate solution and once with water. On distillation, 0.76 mol of phosphoric acid diethyl ester chloride (boiling point: 76°-53° C./0.6-0.7 mbar) was recovered and no phosphoric acid diethyl propargyl ester was isolated. If the reaction was carried out at 80° to 100° C. for 6 hours, about 15% of impure diethyl propargyl phosphate was obtained, boiling point: 70°-82° C./0.2 mbar.

reactant | phosphoric acid diethyl ester chloride | 1 mol | [Cl-].C(C)OP(OCC)(O)=O
reactant | propargyl alcohol | 1.2 mols | C(C#C)O | C3H4O
reactant | phosphoric acid diethyl ester chloride | 0.76 mol | [Cl-].C(C)OP(OCC)(O)=O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | phosphoric acid diethyl propargyl ester | C(C#C)OP(OCC)(OCC)=O | C7H13O4P
